US07670591B2
b) tert-butyl (2-fluoroethyl)[5-(6-methoxy-1,3-benzoxazol-2-yl)pyridin-2-yl]carbamate
tert-Butyl [5-(6-methoxy-1,3-benzoxazol-2-yl)pyridin-2-yl]carbamate (0.65 mmol) and sodium hydride (0.78 mmol) were dissolved in dry DMF (20 mL) at 0° C. After 5 min 1-bromo-2-fluoroethane (0.72 mmol) was added and the reaction was allowed to warm to r.t. After 2 h additional sodium hydride and 1-bromo-2-fluoroethane was added and the reaction mixture was stirred over night. The solvent was removed under reduced pressure and redissolved in EtOAc. Water was added and the layers separated. The aqueous layer was extracted with EtOAc (2×), dried (Na2SO4) and evaporated to give 253 mg as brown oil. The crude product was taken to the next step without further purification. MS m/z 388 (M+H).

reactant | tert-Butyl [5-(6-methoxy-1,3-benzoxazol-2-yl)pyridin-2-yl]carbamate | 0.65 mmol | COC1=CC2=C(N=C(O2)C=2C=CC(=NC2)NC(OC(C)(C)C)=O)C=C1 | C18H19N3O4
reactant | sodium hydride | 0.78 mmol | [H-].[Na+]
reactant | 1-bromo-2-fluoroethane | 0.72 mmol | BrCCF | C2H4BrF
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | tert-butyl (2-fluoroethyl)[5-(6-methoxy-1,3-benzoxazol-2-yl)pyridin-2-yl]carbamate | FCCN(C(OC(C)(C)C)=O)C1=NC=C(C=C1)C=1OC2=C(N1)C=CC(=C2)OC | C20H22FN3O4
